US07592373B2
1.1.d. 3-(4-pyrrolidin-1-ylmethylphenyl)propynoic acid-(4-prop-1-ynylphenyl)amide
10 mL of acetonitrile is degassed and combined with 0.35 mL (2 mmol) of ethyldiisopropylamine and 0.2 g (0.69 mmol) of 1-(4-iodobenzyl)pyrrolidine. Then the mixture is again degassed and 13 mg of copper (I) iodide, 34 mg of tetrakistriphenylphosphine palladium, and 137 mg (0.75 mmol) of propynoic acid-(4-prop-1-ynylphenyl)amide are then added in succession. The reaction mixture is stirred for 24 hours at ambient temperature and then combined with 60 mg of propynoic acid-(4-prop-1-ynylphenyl)amide. After 24 hours, the mixture is evaporated down. The purification is carried out by column chromatography on silica gel (dichloromethane/methanol/ammonia (30:1:0.1 to 20:1:0.1)). Yield: 24 mg (10% of theory); C23H22N2O (M=342.44); calc.: molecular ion peak (M+H)+: 343; found: molecular ion peak (M+H)+: 343; Rf value: 0.2 (silica gel, dichloromethane/methanol/ammonia=10:1:0.1).

reactant | ethyldiisopropylamine | 2 mmol, 0.35 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-(4-iodobenzyl)pyrrolidine | 0.69 mmol, 0.2 g | IC1=CC=C(CN2CCCC2)C=C1 | C11H14IN
reactant | propynoic acid-(4-prop-1-ynylphenyl)amide | 0.75 mmol, 137 mg | C(#CC)C1=CC=C(C=C1)NC(C#C)=O | C12H9NO
reactant | propynoic acid-(4-prop-1-ynylphenyl)amide | 60 mg | C(#CC)C1=CC=C(C=C1)NC(C#C)=O | C12H9NO
catalyst | copper (I) iodide | 13 mg | [Cu]I
product | 3-(4-pyrrolidin-1-ylmethylphenyl)propynoic acid-(4-prop-1-ynylphenyl)amide | C(#CC)C1=CC=C(C=C1)NC(C#CC1=CC=C(C=C1)CN1CCCC1)=O | C23H22N2O
